US07667041B2
Synthesis of 6-fluoro-5-morpholin-4-ylindan-1-one
A solution of 5,6-difluoro-1-indanone (535 mg) and morpholine (554 mg) in 1-methyl-2-pyrrolidinone (6.0 mL) was stirred at 100° C. for 7 hours. After confirming that the raw materials disappeared, water and ethyl acetate were added to the reaction solution and the organic layer was partitioned. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (elution solvent:heptane-ethyl acetate system) to obtain 635 mg of the title compound. The physical properties of the compound are as follows.

reactant | 5,6-difluoro-1-indanone | 535 mg | FC=1C=C2CCC(C2=CC1F)=O | C9H6F2O
reactant | morpholine | 554 mg | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1-methyl-2-pyrrolidinone | 6.0 mL | CN1C(CCC1)=O | C5H9NO
product | 6-fluoro-5-morpholin-4-ylindan-1-one | 635 mg | FC1=C(C=C2CCC(C2=C1)=O)N1CCOCC1 | C13H14FNO2
